US06800629B2
To 5.0 mL of 25% aqueous solution of ammonia was added 0.10 g of (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-[3-[amino(imino)methyl]-2oxo-1(2H)-pyrazinyl]tetrahydro-3-furanyl acetate at an ice-cooled temperature, and the mixture thus formed was stirred at the same temperature as above for 2 hours. After adding 4.9 mL of acetic acid to the reaction mixture, the solvent was removed under reduced pressure. Further, the same reaction as above was repeated by using 20 mg of (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-[3-[amino(imino)methyl]-2-oxo1(2H)-pyrazinyl]tetrahydro-3-furanyl acetate, and the reaction mixture thus obtained was united with the reaction mixture obtained above. The united mixture was purified by reversed phase silica gel column chromatography [eluent: water]. To the solid product thus obtained was added 5.0 mL of 1 mol/L hydrochloric acid, and the solvent was removed under reduced pressure. Further, 5.0 mL of 1 mol/L hydrochloric acid was added and the solvent was removed under reduced pressure. Ethanol was added to the residue thus obtained, and the solid product was collected by filtration to obtain 30 mg of 4-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-3-oxo-3,4-dihydro-2-pyrazinecarboximidamide hydrochloride as a light yellow-colored solid product.

reactant | ammonia | N | H3N
reactant | (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-[3-[amino(imino)methyl]-2oxo-1(2H)-pyrazinyl]tetrahydro-3-furanyl acetate | 0.10 g | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C(C(=NC=C1)C(=N)N)=O)COC(C)=O | C16H20N4O8
reactant | (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-[3-[amino(imino)methyl]-2-oxo1(2H)-pyrazinyl]tetrahydro-3-furanyl acetate | 20 mg | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C(C(=NC=C1)C(=N)N)=O)COC(C)=O | C16H20N4O8
reactant | hydrochloric acid | 1 mol/L, 5.0 mL | Cl | ClH
solvent | acetic acid | 4.9 mL | C(C)(=O)O | C2H4O2
product | 4-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-3-oxo-3,4-dihydro-2-pyrazinecarboximidamide hydrochloride | 30 mg | Cl.O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(C(=NC=C1)C(N)=N)=O | InChI=1S/C10H14N4O5.ClH/c11-8(12)5-9(18)14(2-1-13-5)10-7(17)6(16)4(3-15)19-10;/h1-2,4,6-7,10,15-17H,3H2,(H3,11,12);1H/t4-,6-,7-,10-;/m1./s1
